US08633319B2
N-{[(3S)-3-Fluoro-3-piperidinyl]methyl}-7-{1-[(methyloxy)methyl]-1H-pyrazol-4-yl}-1,6-naphthyridin-5-amine
To 1,1-dimethylethyl (3R)-3-fluoro-3-{[(7-{1-[(methyloxy)methyl]-1H-pyrazol-4-yl}-1,6-naphthyridin-5-yl)amino]methyl}-1-piperidinecarboxylate (813 mg, 1.728 mmol) in DCM (10 ml) was added trifluoroacetic acid (2 ml, 26.0 mmol) and stirred at room temperature for 2 h. LCMS showed product as the main peak. The solvent was removed and dissolved in methanol and loaded onto a pre-equilibrated 50 g SCX cartridge. Washed with methanol and eluted with 2M methanolic ammonia. The solvent from the ammonia fractions was removed and the residue dried under high vacuum overnight. The residue was purified on the large scale high pH MDAP (Method D). Appropriate fractions were combined and the solvent removed. The resulting product was dried under high vacuum for 1 h to give the title compound as a yellow solid (349 mg).

reactant | 1,1-dimethylethyl (3R)-3-fluoro-3-{[(7-{1-[(methyloxy)methyl]-1H-pyrazol-4-yl}-1,6-naphthyridin-5-yl)amino]methyl}-1-piperidinecarboxylate | 1.728 mmol, 813 mg | F[C@@]1(CN(CCC1)C(=O)OC(C)(C)C)CNC1=C2C=CC=NC2=CC(=N1)C=1C=NN(C1)COC | C24H31FN6O3
reactant | trifluoroacetic acid | 26.0 mmol, 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | N-{[(3S)-3-Fluoro-3-piperidinyl]methyl}-7-{1-[(methyloxy)methyl]-1H-pyrazol-4-yl}-1,6-naphthyridin-5-amine | 349 mg | F[C@@]1(CNCCC1)CNC=1C=2C=CC=NC2C=C(N1)C=1C=NN(C1)COC | C19H23FN6O
